US04753936
1,4-Dihydro-2,6-dimethyl-5-nitro-4-(2-trifluoromethylphenyl)-pyridine-3-carboxylic acid 4-cyclohexylpiperazide
17.4 g (0.10 mol) of 2-trifluoromethylphenylbenzaldehyde, 12.0 g (0.12 mol) of nitroacetone and 25.1 g (0.10 mol) of β-aminocrotonic acid 4-cyclohexylpiperazide are heated in 50 ml of isopropanol at 60° C. for 12 hours. On cooling, the product separates out and is recrystallized from isopropanol.

reactant | 2-trifluoromethylphenylbenzaldehyde | 0.10 mol, 17.4 g | FC(C1=C(C=CC=C1)C1=C(C=O)C=CC=C1)(F)F | C14H9F3O
reactant | nitroacetone | 0.12 mol, 12.0 g | [N+](=O)([O-])CC(C)=O | C3H5NO3
reactant | β-aminocrotonic acid 4-cyclohexylpiperazide | 0.10 mol, 25.1 g | C1(CCCCC1)N1CCN(CC1)C(\C=C(\C)/N)=O | C14H25N3O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1,4-Dihydro-2,6-dimethyl-5-nitro-4-(2-trifluoromethylphenyl)-pyridine-3-carboxylic acid 4-cyclohexylpiperazide | C1(CCCCC1)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)C(F)(F)F)[N+](=O)[O-])C)C | C25H31F3N4O3
